US04621084
6-(8-Ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.25 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.4 g) and 2-amino-3-ethoxypyridine (2.8 g). mp. 180°-181° C. (dec.).

reactant | 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.4 g | BrC(C(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1)C | C12H12BrNO3
reactant | 2-amino-3-ethoxypyridine | 2.8 g | NC1=NC=CC=C1OCC | C7H10N2O
product | 6-(8-Ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.25 g | C(C)OC=1C=2N(C=CC1)C(=C(N2)C=2C=CC1=C(NC(C(O1)C)=O)C2)C | C19H19N3O3
